US04017492
A solution of 7-chloro-2-[[1-carboxy-4-(diethylamino)butylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine in CH2Cl2 (10 ml.) is treated with stirring under N2, with an ethereal solution of diazomethane (5 ml., 0.3 M). After 1/2 hour the solution is concentrated in vacuo giving 7-chloro-2-[[1-(methoxycarbonyl)-4-(diethylamino)-butylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine as an oil, the nmr of which confirmed the structure. Nmr (CDCl3) δ 0.95 (t, 3, CH2CH3) 1.82 (m, 2, CH2CH2CH2); 2.50 (m, 6, CH2CH3 and CH2CH2N), 2.27 (m, z, CCH2CH2), 3.77 (s, 3, OCH3), 4.50 (broad s, z, 3--CH2), between 6.80 and 7.85 (m, 8, arom H's).

reactant | 7-chloro-2-[[1-carboxy-4-(diethylamino)butylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCCN(CC)CC)C(=O)O)C2=CC=CC=C2)C1 | C24H28ClN5O2
reactant | diazomethane | 0.3 M, 5 ml | [N+](=[N-])=C | CH2N2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-chloro-2-[[1-(methoxycarbonyl)-4-(diethylamino)-butylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCCN(CC)CC)C(=O)OC)C2=CC=CC=C2)C1 | C25H30ClN5O2
